US08106043B2
tert-Butyl 3-(2H-benzo[b][1,4]thiazin-4(3H)-yl)pyrrolidine-1-carboxylate:
A mixture of 3,4-dihydro-2H-benzo[b][1,4]thiazine (1.00 g, 6.61 mmol), N-boc-3-pyrrolidinone (1.34 g, 7.27 mmol), and acetic acid (0.94 mL, 16.52 mmol) in 1,2-dichloroethane (20 mL) was cooled to 0° C. and then treated with solid sodium triacetoxyborohydride (2.10 g, 9.92 mmol). The reaction was brought to room temperature and was stirred for 11 hours. Additional equivalents of each of sodium triacetoxyborohydride (1.40 g, 6.61 mmol) and N-boc-3-pyrrolidinone (1.22 g, 6.61 mmol) were added to the reaction mixture. The reaction was stirred for 2 more days and was then quenched with 3 N NaOH (50 mL). The mixture was transferred to a separatory funnel and extracted with EtOAc (2×50 mL). The organic phase was washed with brine (50 mL) and dried (Na2SO4). The crude material was subject to flash chromatography on silica gel (10% EtOAc/hexanes then 20% EtOAc/hexanes). The sample was subject to additional flash chromatography on silica gel (7.5-15% EtOAc/hexanes) to give viscous oil (0.41 g, 19%). 1H NMR (CDCl3) δ 7.08 (dd, J=0.9, 7.5 Hz, 1H), 7.04-6.99 (m, 1H), 6.77 (d, J=8.1 Hz, 1H), 6.67-6.72 (m, 1H), 4.39-4.36 (m, 1H), 3.73-3.72 (m, 6H), 3.10-3.06 (m, 2H), 2.20-2.00 (m, 2H), 1.47 (s, 9H); ESI-MS (m/z, %): 345, 343 (M+Na, 4), 322, 320 (MH+, 3), 267, 265 (100).

reactant | 3,4-dihydro-2H-benzo[b][1,4]thiazine | 6.61 mmol, 1.00 g | S1C2=C(NCC1)C=CC=C2 | C8H9NS
reactant | N-boc-3-pyrrolidinone | 7.27 mmol, 1.34 g | C(=O)(OC(C)(C)C)N1CC(CC1)=O | C9H15NO3
reactant | acetic acid | 16.52 mmol, 0.94 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 9.92 mmol, 2.10 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 6.61 mmol, 1.40 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | N-boc-3-pyrrolidinone | 6.61 mmol, 1.22 g | C(=O)(OC(C)(C)C)N1CC(CC1)=O | C9H15NO3
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | tert-Butyl 3-(2H-benzo[b][1,4]thiazin-4(3H)-yl)pyrrolidine-1-carboxylate | 0.41 g, 19% | S1C2=C(N(CC1)C1CN(CC1)C(=O)OC(C)(C)C)C=CC=C2 | C17H24N2O2S
